US06051722
55.6 g (theoretical molar number: 184.1 mmols) of crude N-ethyl-N-(6-hydroxyhexyl)-4-bromoaniline was dissolved in 247 ml of chloroform. Then 24.6ml (1.5 equivalent) of 3,4-dihydro-2H-pyran and 7.0 g (0.2 equivalent) of pyridinium p-toluenesulfonate monohydrate were added. After displacement with argon, a Dimroth condenser and an argon balloon were attached to carry out reflux with heating for 5 hours. The reaction solution was cooled to room temperature, and a saturated aqueous sodium hydrogencarbonate solution was added thereto to effect neutralization, followed by extracted with chloroform. The organic layer thus formed was dried with anhydrous sodium sulfate and thereafter concentrated under reduced pressure. The residue thus obtained was purified by silica gel column chromatography (developing system: hexane/ethyl acetate=15/1) to obtain 63.3 g of N-ethyl-N-[6-(tetrahydropyran-2-yl)oxyhexyl]-4-bromoaniline (yield: 90%; a colorless oily liquid). IR Spectrum [ν(cm-1)]: 2924, 1588, 1492, 1348, 1260, 1174, 1116, 1066, 1022, 906, 864, 800; 1H-NMR Spectrum [δ(ppm)]: 1.12(t, 3H, J=7.0 Hz), 1.35-1.95(m, 14H), 3.20(t, 2H, J=7.6 Hz), 3.27-3.51(m, 4H), 3.73(m, 1H), 3.86(m, 1H), 4.57(t, 1H, J=3.6 Hz), 6.50(d, 2H, J=9.1 Hz), 7.24(d, 2H, J=9.1 Hz)

reactant | N-ethyl-N-(6-hydroxyhexyl)-4-bromoaniline | 184.1 mmols, 55.6 g | C(C)N(C1=CC=C(C=C1)Br)CCCCCCO | C14H22BrNO
reactant | 3,4-dihydro-2H-pyran | 24.6ml, 1.5 equivalent | O1CCCC=C1 | C5H8O
reactant | pyridinium p-toluenesulfonate monohydrate | 7.0 g, 0.2 equivalent | O.C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 247 ml | C(Cl)(Cl)Cl | CHCl3
product | N-ethyl-N-[6-(tetrahydropyran-2-yl)oxyhexyl]-4-bromoaniline | 63.3 g, yield: 90% | C(C)N(C1=CC=C(C=C1)Br)CCCCCCOC1OCCCC1 | C19H30BrNO2
